US06313312B1
(3-Hexyl-6-{3-[(methoxycarbonyl)amino]phenyl}-3-azabicyclo[3.1.0]hex-6-yl)methyl methyl carbonate
A solution of [6-(3-aminophenyl)-3-hexyl-3-azabicyclo[3.1.0]hex-6-yl]methanol (Preparation 94, 0.03 g, 0.09 mmol) in tetrahydrofuran (1 ml) was stirred at 0° C. under an atmosphere of nitrogen. The reaction mixture was treated with triethylamine (0.03 ml, 0.19 mmol) followed by dropwise addition of methyl chloroformate (0.01 ml, 0.17 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 2 h before pouring onto aqueous saturated sodium hydrogen carbonate (50 ml). The product was extracted with ethyl acetate (3×25 ml) and the combined organic extracts were dried (Na2SO4) and then concentrated in vacuo to give a brown residue. The crude product was purified by preparative HPLC (condition 11) to give a clear glass (6 mg, 15% yield).

reactant | [6-(3-aminophenyl)-3-hexyl-3-azabicyclo[3.1.0]hex-6-yl]methanol | 0.09 mmol, 0.03 g | NC=1C=C(C=CC1)C1(C2CN(CC12)CCCCCC)CO | C18H28N2O
reactant | triethylamine | 0.19 mmol, 0.03 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.17 mmol, 0.01 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (3-Hexyl-6-{3-[(methoxycarbonyl)amino]phenyl}-3-azabicyclo[3.1.0]hex-6-yl)methyl methyl carbonate | 6 mg, 15% yield | C(OCC1(C2CN(CC12)CCCCCC)C1=CC(=CC=C1)NC(=O)OC)(OC)=O | C22H32N2O5
